** Name: SymmetricalOpAmp7

.MACRO SymmetricalOpAmp7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=58e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=17e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=104e-6
mDiodeTransistorNmos4 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=58e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=25e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=536e-6
mDiodeTransistorPmos7 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=112e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=112e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=316e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=161e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=161e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=272e-6
mNormalTransistorPmos14 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=290e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=258e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos17 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=272e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=551e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=536e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp7

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 6.97601 mW
** Area: 9468 (mu_m)^2
** Transit frequency: 64.1501 MHz
** Transit frequency with error factor: 64.1499 MHz
** Slew rate: 60.6171 V/mu_s
** Phase margin: 63.0254°
** CMRR: 152 dB
** negPSRR: 50 dB
** posPSRR: 56 dB
** VoutMax: 4.47001 V
** VoutMin: 0.400001 V
** VcmMax: 4.07001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 314.755 muA
** NormalTransistorPmos: -104.651 muA
** NormalTransistorPmos: -116.852 muA
** DiodeTransistorNmos: 111.751 muA
** DiodeTransistorNmos: 111.751 muA
** NormalTransistorPmos: -223.501 muA
** NormalTransistorPmos: -111.75 muA
** NormalTransistorPmos: -111.75 muA
** NormalTransistorNmos: 307.673 muA
** NormalTransistorNmos: 307.672 muA
** NormalTransistorPmos: -307.672 muA
** NormalTransistorPmos: -307.673 muA
** DiodeTransistorPmos: -307.672 muA
** NormalTransistorNmos: 307.673 muA
** NormalTransistorNmos: 307.672 muA
** DiodeTransistorNmos: 104.652 muA
** DiodeTransistorNmos: 116.853 muA
** DiodeTransistorPmos: -314.754 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22401  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.810001  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 4.07601  V
** inputVoltageBiasXXnXX0: 0.559001  V
** out: 2.5  V
** outFirstStage: 0.556001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21501  V
** innerStageBias: 4.41901  V
** innerTransconductance: 0.151001  V
** inner: 0.151001  V


.END