** Name: SymmetricalOpAmp8

.MACRO SymmetricalOpAmp8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=133e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=133e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=12e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=192e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=110e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=67e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=67e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=262e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=262e-6
mNormalTransistorPmos11 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=280e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos13 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=512e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=192e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp8

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 8.80901 mW
** Area: 6124 (mu_m)^2
** Transit frequency: 72.0501 MHz
** Transit frequency with error factor: 72.0506 MHz
** Slew rate: 98.4477 V/mu_s
** Phase margin: 71.6198°
** CMRR: 147 dB
** negPSRR: 46 dB
** posPSRR: 50 dB
** VoutMax: 3.82001 V
** VoutMin: 0.450001 V
** VcmMax: 3.91001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -236.623 muA
** DiodeTransistorNmos: 253.527 muA
** DiodeTransistorNmos: 253.527 muA
** NormalTransistorPmos: -507.052 muA
** NormalTransistorPmos: -253.526 muA
** NormalTransistorPmos: -253.526 muA
** NormalTransistorNmos: 499.012 muA
** NormalTransistorNmos: 499.013 muA
** NormalTransistorPmos: -499.011 muA
** NormalTransistorPmos: -499.012 muA
** DiodeTransistorPmos: -499.013 muA
** DiodeTransistorPmos: -499.014 muA
** NormalTransistorNmos: 499.014 muA
** NormalTransistorNmos: 499.013 muA
** DiodeTransistorNmos: 236.624 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.13001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.851001  V
** inSourceStageBiasComplementarySecondStage: 4.05301  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.98301  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.28101  V
** innerStageBias: 3.78001  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END