** Name: SymmetricalOpAmp83

.MACRO SymmetricalOpAmp83 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=364e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=523e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=348e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=92e-6
mNormalTransistorNmos9 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=364e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=4e-6 W=434e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=92e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=523e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=205e-6
mNormalTransistorPmos15 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=205e-6
mNormalTransistorPmos16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=139e-6
mNormalTransistorPmos17 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=139e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp83

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 8.08001 mW
** Area: 12944 (mu_m)^2
** Transit frequency: 63.5081 MHz
** Transit frequency with error factor: 63.5077 MHz
** Slew rate: 73.6493 V/mu_s
** Phase margin: 60.7336°
** CMRR: 142 dB
** negPSRR: 69 dB
** posPSRR: 53 dB
** VoutMax: 4.30001 V
** VoutMin: 0.950001 V
** VcmMax: 4.46001 V
** VcmMin: 1.30001 V


** Expected Currents: 
** NormalTransistorNmos: 345.215 muA
** DiodeTransistorPmos: -256.525 muA
** DiodeTransistorPmos: -256.525 muA
** NormalTransistorNmos: 513.051 muA
** DiodeTransistorNmos: 513.052 muA
** NormalTransistorNmos: 256.526 muA
** NormalTransistorNmos: 256.526 muA
** NormalTransistorNmos: 373.834 muA
** DiodeTransistorNmos: 373.833 muA
** NormalTransistorPmos: -373.833 muA
** NormalTransistorPmos: -373.832 muA
** NormalTransistorNmos: 373.834 muA
** NormalTransistorPmos: -373.833 muA
** NormalTransistorPmos: -373.832 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -345.214 muA


** Expected Voltages: 
** ibias: 1.11501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.05001  V
** inStageBiasComplementarySecondStage: 0.752001  V
** innerComplementarySecondStage: 1.35801  V
** out: 2.5  V
** outFirstStage: 4.05001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.91301  V
** innerTransconductance: 4.56801  V
** inner: 4.56801  V
** inner: 0.556001  V


.END