** Name: SymmetricalOpAmp84

.MACRO SymmetricalOpAmp84 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=8e-6 W=333e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=8e-6 W=333e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=581e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=124e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=144e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=8e-6 W=333e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=144e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=581e-6
mNormalTransistorNmos13 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=8e-6 W=333e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=51e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=51e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp84

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 6.60201 mW
** Area: 14964 (mu_m)^2
** Transit frequency: 63.0521 MHz
** Transit frequency with error factor: 63.0517 MHz
** Slew rate: 60.5927 V/mu_s
** Phase margin: 60.1606°
** CMRR: 142 dB
** negPSRR: 58 dB
** posPSRR: 64 dB
** VoutMax: 4.25 V
** VoutMin: 0.990001 V
** VcmMax: 4.26001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 121.84 muA
** DiodeTransistorPmos: -284.973 muA
** DiodeTransistorPmos: -284.973 muA
** NormalTransistorNmos: 569.948 muA
** DiodeTransistorNmos: 569.949 muA
** NormalTransistorNmos: 284.974 muA
** NormalTransistorNmos: 284.974 muA
** NormalTransistorNmos: 309.324 muA
** DiodeTransistorNmos: 309.323 muA
** NormalTransistorPmos: -309.323 muA
** NormalTransistorPmos: -309.324 muA
** DiodeTransistorNmos: 309.324 muA
** NormalTransistorNmos: 309.323 muA
** NormalTransistorPmos: -309.323 muA
** NormalTransistorPmos: -309.324 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -121.839 muA


** Expected Voltages: 
** ibias: 1.11501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.700001  V
** inSourceTransconductanceComplementarySecondStage: 3.85501  V
** innerComplementarySecondStage: 1.40001  V
** out: 2.5  V
** outFirstStage: 3.85501  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94201  V
** innerTransconductance: 4.41901  V
** inner: 0.698001  V
** inner: 4.41901  V
** inner: 0.556001  V


.END