** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=24e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=118e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=118e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=34e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=8e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=190e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=104e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=104e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=296e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=296e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=6e-6 W=262e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=394e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=394e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=37e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=356e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=470e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=470e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 11.2331 mW
** Area: 9783 (mu_m)^2
** Transit frequency: 99.4531 MHz
** Transit frequency with error factor: 99.4534 MHz
** Slew rate: 111.103 V/mu_s
** Phase margin: 61.3065°
** CMRR: 150 dB
** negPSRR: 49 dB
** posPSRR: 55 dB
** VoutMax: 4.51001 V
** VoutMin: 0.400001 V
** VcmMax: 3.61001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 263.988 muA
** NormalTransistorPmos: -47.1729 muA
** NormalTransistorPmos: -328.307 muA
** DiodeTransistorNmos: 226.945 muA
** DiodeTransistorNmos: 226.945 muA
** NormalTransistorPmos: -453.888 muA
** NormalTransistorPmos: -226.944 muA
** NormalTransistorPmos: -226.944 muA
** NormalTransistorNmos: 563.772 muA
** NormalTransistorNmos: 563.771 muA
** NormalTransistorPmos: -563.771 muA
** NormalTransistorPmos: -563.772 muA
** NormalTransistorPmos: -569.464 muA
** NormalTransistorPmos: -569.465 muA
** NormalTransistorNmos: 569.465 muA
** NormalTransistorNmos: 569.464 muA
** DiodeTransistorNmos: 47.1721 muA
** DiodeTransistorNmos: 328.308 muA
** DiodeTransistorPmos: -263.987 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.78501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inOutputTransconductanceComplementarySecondStage: 0.809001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.17601  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.766001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.24301  V
** innerStageBias: 4.47901  V
** innerTransconductance: 0.150001  V
** inner: 4.48001  V
** inner: 0.150001  V


.END